US06294532B1
A solution of 7-benzyloxy-4-(2-methoxyethylsulphanyl)quinazoline (8 g, 24.5 mmol) in TFA (80 ml) was refluxed for 5 hours. After cooling and removal of the volatiles by evaporation, the residue was triturated with water, collected by filtration, washed with water and then ethyl acetate. The residue was resuspended in methylene chloride, filtered, washed with petroleum ether and dried under vacuum to give 7-hydroxy-4-(2-methoxyethylsulphanyl)quinazoline (5.8 g, quant.).

reactant | 7-benzyloxy-4-(2-methoxyethylsulphanyl)quinazoline | 24.5 mmol, 8 g | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)SCCOC | C18H18N2O2S
solvent | TFA | 80 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-hydroxy-4-(2-methoxyethylsulphanyl)quinazoline | 5.8 g | OC1=CC=C2C(=NC=NC2=C1)SCCOC | C11H12N2O2S
